US06489487B1
To a solution of 0.96 g (3.24 mmol) of triphosgene in 10 ml of dry methylene chloride was added dropwise a solution of 0.55 g (1.62 mmol) of 1,1-dimethyl-4-{3-(1-(benzyloxyimino)ethyl)benzyl}semicarbazide (produced in the following Reference Production Example 2) in 15 ml of dry methylene dhloride with ice-cooling. The mixture was removed from an ice bath, then allowed to warm to room temperature and heated under reflux for 4 hours. After allowing to cool to room temperature, the reaction mixture was poured into 40 ml of an about 5% aqueous solution of sodium bicarbonate, and the mixture was stirred for 0.5 hours. The organic layer was washed with water, dried and concentrated. The residue was subjected to silica gel preparative thin layer chromatography (developed with n-hexane:ethyl acetate=3:2) to obtain 0.27 g (0.74 mmol) of 5-chloro-2-methyl-4-{3-(1-(benzyloxyimino)ethyl)-benzyl}-2,4-dihydro-3H-1,2,4-triazol-3-one (the compound 249 of the present invention).

reactant | triphosgene | 3.24 mmol, 0.96 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 1,1-dimethyl-4-{3-(1-(benzyloxyimino)ethyl)benzyl}semicarbazide | 1.62 mmol, 0.55 g | CN(NC(=O)NCC1=CC(=CC=C1)C(C)=NOCC1=CC=CC=C1)C | C19H24N4O2
reactant | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 5-chloro-2-methyl-4-{3-(1-(benzyloxyimino)ethyl)-benzyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.74 mmol, 0.27 g | ClC=1N(C(N(N1)C)=O)CC1=CC(=CC=C1)C(C)=NOCC1=CC=CC=C1 | C19H19ClN4O2
